US06576656B1
(6) 1-(5-Methanesulfonyloxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole
To a solution of 1-(5-hydroxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole (155 mg, 0.279 mmol) and triethylamine (0.06 mL, 0.43 mmol) in dichloromethane (5 mL) was added methanesulfonyl chloride (0.025 mL, 0.323 mmol) at 0° C. The mixture was stirred for 5 min at the same temperature and water was added. The mixture was extracted with ethyl acetate and the extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography with 3:2 hexane/ethyl acetate to give the mixture (116 mg) of the title compound and dimesylate.

reactant | 1-(5-hydroxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole | 0.279 mmol, 155 mg | OCCCCCN1C(C(C2=C(C=C(C=C12)I)Br)(C1=CC2=CC=CC=C2C=C1)O)=O | C23H21BrINO3
reactant | triethylamine | 0.43 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.323 mmol, 0.025 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(5-Methanesulfonyloxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole | 116 mg | CS(=O)(=O)OCCCCCN1C(C(C2=C(C=C(C=C12)I)Br)(C1=CC2=CC=CC=C2C=C1)O)=O | C24H23BrINO5S
